US05434150
2-(4-Cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole
4.7 g of 3-amino-4-methylamino-benzoic acid-[N-(2-methoxycarbonyl-ethyl)-amide] are first stirred at ambient temperature with 40 ml of phosphorusoxychloride, then 3.1 g of 4-cyano-benzoylchloride are added and the mixture is heated to 90° C. for 8 hours. The phosphorusoxychloride is distilled off in vacuo, the residue is stirred into 500 ml of water at 30° C. and neutralised by the addition of sodium bicarbonate in batches. The precipitate is suction filtered and extracted with ethyl acetate. The ethyl acetate phases are evaporated down, the residue is combined with the precipitate and purified by chromatography on silica gel (eluant:ethyl acetate/ethanol=100:1 to 100:5). The product obtained is decocted with ethyl acetate for final purification. Yield: 1,86 g (27% of theory), Rf value: 0.51 (silica gel; ethyl acetate/ethanol=9:1)

reactant | 3-amino-4-methylamino-benzoic acid-[N-(2-methoxycarbonyl-ethyl)-amide] | 4.7 g | COC(=O)CCNC(C1=CC(=C(C=C1)NC)N)=O | C12H17N3O3
reactant | phosphorusoxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-cyano-benzoylchloride | 3.1 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-methyl-benzimidazole | C(#N)C1=CC=C(C=C1)C1=NC2=C(N1C)C=CC(=C2)C(=O)NCCC(=O)OC | C20H18N4O3
